### ISSUE TITLE
feat(bz): computable kernel-reducible Decidable instance for mod-p irreducibility (rabinTest-backed)

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#8571]
**Goal.** Give mod-`p` polynomial irreducibility a **computable, kernel-reducible** `Decidable` instance backed by `Berlekamp.rabinTest`, so `example : Irreducible (toMathlibPolynomial f) := by decide +kernel` works over `F_p`. This is the implementation of the mod-`p` half of the certifying-irreducibility SPEC requirement added in #8564 (`HexBerlekampZassenhaus/SPEC/hex-berlekamp-zassenhaus.md`, "Mod-`p` irreducibility").

**Why.** The only current instance is noncomputable:
```
instance irreducibleDecidablePred (p : Nat) [Fact (Nat.Prime p)] :
    DecidablePred (fun f : Polynomial (ZMod p) => Irreducible f) :=
  Classical.decPred _   -- HexBerlekampMathlib/Basic.lean:1217
```
`decide +kernel` on it gets stuck (`Classical.choice`). But `rabinTest` is a computable *complete* decision — `rabin_irreducible : rabinTest f hmonic = true ↔ Irreducible (toMathlibPolynomial f)` (HexBerlekampMathlib/Basic.lean:1154) — so a computable instance is available and just needs assembling.

**Where.** `HexBerlekampMathlib/Basic.lean`, in a **new block placed *outside* the file's `noncomputable section`** (which spans line 31 to the `end` at line 1221). Anything inside that section is noncomputable, so the computable `Bool` and the `Decidable` instance must go *after* line 1221 and before `end HexBerlekampMathlib` (line 1223). This layer is **CI-gated** (`ci.yml` builds `HexBerlekampZassenhausMathlib`, which imports `HexBerlekampMathlib`); verify with `lake build HexBerlekampZassenhausMathlib`, not just the module.

**Shape (mirrors the ℤ-side pattern** `Hex.ZPoly.isIrreducible` / `isIrreducible_iff` / `instDecidableIrreducible`**).**
```
def fpIsIrreducible [Bounds p] (f : FpPoly p) : Bool   -- nonzero ∧ rabinTest of the monic normalization
theorem fpIsIrreducible_iff [Fact (Nat.Prime p)] (f) : fpIsIrreducible f = true ↔ Irreducible (toMathlibPolynomial f)
instance [Fact (Nat.Prime p)] (f : FpPoly p) : Decidable (Irreducible (toMathlibPolynomial f)) := decidable_of_iff _ (fpIsIrreducible_iff f)
```

**Verified ingredients (all exist — file:line):**
- `rabin_irreducible (f) (hmonic) [Fact (Nat.Prime p)] (n) (hdeg : basisSize f = n) : rabinTest f hmonic = true ↔ Irreducible (toMathlibPolynomial f)` — `HexBerlekampMathlib/Basic.lean:1154`.
- `Hex.FpPoly.scale_inv_leadingCoeff_monic [PrimeModulus p] (f) (hpos : 0 < f.degree?.getD 0) : DensePoly.Monic (DensePoly.scale (DensePoly.leadingCoeff f)⁻¹ f)` — `HexPolyFp/Basic.lean:2971`. (Public; **note the positive-degree hypothesis** — this is why the nonzero-constant case needs separate handling.)
- `Hex.FpPoly.normalizeMonic` (`@[expose]`) — `HexPolyFp/SquareFree.lean:1160`. For nonzero `f` it is `(leadingCoeff f, scale (leadingCoeff f)⁻¹ f)`; unfoldable directly (no need to de-privatize the `normalizeMonic_*` lemmas).
- `primeModulus_of_fact (p) [Fact (Nat.Prime p)] : ZMod64.PrimeModulus p` — `HexBerlekampMathlib/Basic.lean:483` (thread `[Fact (Nat.Prime p)]` → `PrimeModulus p` → `Bounds p`).
- `irreducible_isUnit_mul (hu : IsUnit u) : Irreducible (u * a) ↔ Irreducible a` (Mathlib; used at `HexBerlekampZassenhausMathlib/FactorSoundness.lean:393`).
- `toMathlibPolynomial_C`, `C_mul_eq_scale` (`HexPolyFp/Basic.lean:2684`), `HexModArithMathlib.ZMod64.toZMod` (`HexModArithMathlib/Basic.lean:35`), `Polynomial.isUnit_C`, `isUnit_iff_ne_zero`, `not_irreducible_zero`.
- `Hex.fpPoly_leadingCoeff_ne_zero_of_isZero_false`, `ZMod64.inv_mul_eq_one_of_prime`, `ZMod64.PrimeModulus.prime`.
- For the ℤ-side precedent to mirror: `Hex.ZPoly.isIrreducible` (`HexBerlekampZassenhaus/Basic.lean:11744`), `irreducibleByFactorization_iff` / `instDecidableIrreducible` (`HexBerlekampZassenhausMathlib/FactorSoundness.lean:499/508`).

**Two concrete obstacles (this is the real work):**

1. **`Decidable (DensePoly.Monic m)` for the computable `dite`.** `rabinTest` takes a `Monic` *proof*, so the `Bool` must decide monic-ness — but `ZMod64` has no derived `DecidableEq` and no `Decidable (Monic ·)` instance exists (every existing call site passes `hmonic` in). Add a `DecidableEq (Hex.ZMod64 p)` instance (structure = `val : UInt64` + a `Prop` field, so equality reduces to `val` equality by proof irrelevance) and, if needed, a `Decidable (Hex.DensePoly.Monic ·)` derived from it, so the `if hm : Monic m then rabinTest m hm else false` elaborates and reduces in the kernel. This is the load-bearing missing piece.

2. **The `_iff` proof is three cases:**
   - **zero** (`f.isZero`): `fpIsIrreducible = false`; `toMathlibPolynomial f = 0` (prove `toMathlibPolynomial 0 = 0` inline via `Polynomial.ext` + coeff lemmas — there is no `toMathlibPolynomial_zero`), and `not_irreducible_zero` closes both-false.
   - **nonzero constant** (`degree = 0`): `scale_inv_leadingCoeff_monic` does *not* apply (needs positive degree); `m = C 1` is monic, `rabinTest` returns `false` (basisSize 0), and `toMathlibPolynomial f = C c'` is a Mathlib *unit* (not irreducible) — both false.
   - **positive degree**: `scale_inv_leadingCoeff_monic` gives `Monic m`; `rabin_irreducible` + the unit-multiple bridge (`toMathlibPolynomial m = C (toZMod c⁻¹) * toMathlibPolynomial f`, `irreducible_isUnit_mul`) gives the iff.

**Optional extension.** A `DecidablePred (fun g : Polynomial (ZMod p) => Irreducible g)` via `polynomialToFpPoly` (= `fpPolyEquiv.symm`, `HexBerlekampMathlib/Basic.lean:221`) round-trip. Note: Mathlib `Polynomial` is not itself kernel-friendly, so the `FpPoly`-image instance above is the load-bearing one for `decide +kernel`; the `Polynomial (ZMod p)` wrapper is nice-to-have, not the point.

**Verification.**
- Only the added lines must be `sorry`/`axiom`/`native_decide`-free (`git diff -U0 <file> | grep -iE 'sorry|axiom|native_decide'` clean; the file ships pre-existing sorries).
- `lake build HexBerlekampZassenhausMathlib` finishes green (the CI-gated target).
- Add a `#guard` or `example` demonstrating `decide +kernel` works, e.g. `Irreducible (toMathlibPolynomial <small irreducible FpPoly>) := by decide +kernel`, and (negative) that a reducible one is rejected.
- **Read `.claude/skills/hex-lean-mathlib-boundary` first** — this is the treacherous instance-path / defeq layer; build the *module* (`lake build HexBerlekampMathlib.Basic`) to get the real in-scope error set before hand-tracing.

**Starting draft** (structurally complete for the positive-degree case; known bugs: uses the *private* `normalizeMonic_nonzero_monic` — replace with `scale_inv_leadingCoeff_monic` after unfolding `normalizeMonic`; missing the `Decidable (Monic ·)` instance from obstacle 1; missing the nonzero-constant case; `toMathlibPolynomial_zero` / `toZMod_ne_zero_of_ne_zero` names to confirm):

```lean
variable {p : Nat}

def fpIsIrreducible [Hex.ZMod64.Bounds p] (f : Hex.FpPoly p) : Bool :=
  if f.isZero then false
  else
    let m := (Hex.FpPoly.normalizeMonic f).2
    if hm : Hex.DensePoly.Monic m then Hex.Berlekamp.rabinTest m hm else false

theorem fpIsIrreducible_iff [Fact (Nat.Prime p)] (f : Hex.FpPoly p) :
    fpIsIrreducible f = true ↔ Irreducible (toMathlibPolynomial f) := by
  haveI hPM : Hex.ZMod64.PrimeModulus p := primeModulus_of_fact p
  unfold fpIsIrreducible
  by_cases hz : f.isZero = true
  · -- zero: prove `toMathlibPolynomial f = 0`, close with `not_irreducible_zero`
    sorry
  · -- nonzero: split degree = 0 (unit, both false) vs degree > 0
    -- degree > 0: m = scale c⁻¹ f monic (scale_inv_leadingCoeff_monic);
    --   rw [rabin_irreducible _ hm_monic _ rfl];
    --   toMathlibPolynomial m = C (toZMod c⁻¹) * toMathlibPolynomial f (map_mul + toMathlibPolynomial_C);
    --   exact irreducible_isUnit_mul (unit from toZMod c⁻¹ ≠ 0)
    sorry

instance instDecidableIrreducibleToMathlibPolynomial
    [Fact (Nat.Prime p)] (f : Hex.FpPoly p) :
    Decidable (Irreducible (toMathlibPolynomial f)) :=
  decidable_of_iff _ (fpIsIrreducible_iff f)
```
(The `sorry`s are placeholders for the handoff description only — the delivered PR must be sorry-free.)

Relations: SPEC requirement #8564; parent certifying-irreducibility architecture #8552; benchmark motivation #8545.

🤖 Prepared with Claude Code
